US07838688B2
In a 100 mL round bottom flask, 7.5 g (0.027 mol) (2,3-dihydrothieno[3,4-b][1,4]dioxin-3-yl)methyl benzoate was dissolved in a minimal amount of warm ethanol and dropwise added to a refluxing solution of 4.58 g (0.081 mol) potassium hydroxide in 50 mL water. After heating overnight, the reaction was cooled to room temperature and acidified to pH 7 by dropwise addition of concentrated hydrochloric acid. The reaction mixture was extracted with methylene chloride. The organic fractions were combined and the solvent removed under reduced pressure. Purification by column chromatography provided 3.95 g (85% yield) of (2,3-dihydrothieno[3,4-b][1,4]dioxin-3-yl)methanol. Structure was confirmed by 1H/13C NMR and LC-MS.

reactant | (2,3-dihydrothieno[3,4-b][1,4]dioxin-3-yl)methyl benzoate | 0.027 mol, 7.5 g | C(C1=CC=CC=C1)(=O)OCC1OC=2C(OC1)=CSC2 | C14H12O4S
reactant | potassium hydroxide | 0.081 mol, 4.58 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | water | 50 mL | O | H2O
product | (2,3-dihydrothieno[3,4-b][1,4]dioxin-3-yl)methanol | 3.95 g, 85% yield | O1C=2C(OC(C1)CO)=CSC2 | C7H8O3S
